US06162824
To a mixture of 1.0 mL (10.6 mmol) of 3-bromothiophene, 20 mL of anhydrous ether, 60 mg (0.11 mmol) of 1,3-[Bis(diphenylphosphino)-propane]dichloronickel(II)[NiCl2 (dppp)] under N2 with stirring at 0° C. was slowly added 7.0 mL (14 mmol) of 2.0 M PhMgCl in THF. The reaction was slowly warmed to room temperature. Note that a vigorous exothermic reaction may occur if the Grignard reagent is added too fast or if the reaction is allowed to warm to room temperature to rapidly. After stirring for 3 h, the mixture was warmed to reflux for 2 h, poured into 20 mL of 5% HCl solution, and extracted with 2×20 mL of ether. The combined organic phases were washed with 15 mL of H2O and 15 mL of brine, dried (MgSO4) and concentrated. Crystallization from hexanes provided 0.58 g (34% yield) of 3-phenylthiophene.

reactant | 3-bromothiophene | 10.6 mmol, 1.0 mL | BrC1=CSC=C1 | C4H3BrS
reactant | ether | 20 mL | CCOCC | C4H10O
reactant | PhMgCl | 14 mmol, 2.0 M, 7.0 mL | C1(=CC=CC=C1)[Mg]Cl
reactant | HCl | 20 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 3-phenylthiophene | 0.58 g, 34% yield | C1(=CC=CC=C1)C1=CSC=C1 | C10H8S
